US08071581B2
Step 2: Quinoxalin-6-yl-acetic acid
To a solution of quinoxalin-6-yl-acetic acid ethyl ester (95 mg, 0.44 mmol) in methanol (2 mL) was added 4 M aqueous lithium hydroxide (0.55 mL, 2.2 mmol). The reaction mixture was stirred at room temperature for 17 h then it was concentrated in vacuo, diluted with water and extracted with diethyl ether (3×). The aqueous layer was treated with 1 N aqueous hydrochloric acid until pH 2 and extracted with ethyl acetate (3×). The combined organic layers were dried over sodium sulfate, filtered, and concentrated in vacuo to provide 64 mg of product as a beige solid. 1H NMR 500 MHz (DMSO) δ 3.90 (s, 2H), 7.78 (dd, 1H), 7.99 (d, 1H), 8.06 (d, 1H), 8.93 (dd, 2H); MS (m/z) 189 [M+H+]+.

reactant | quinoxalin-6-yl-acetic acid ethyl ester | 0.44 mmol, 95 mg | C(C)OC(CC=1C=C2N=CC=NC2=CC1)=O | C12H12N2O2
reactant | lithium hydroxide | 2.2 mmol, 4 M, 0.55 mL | [OH-].[Li+]
solvent | methanol | 2 mL | CO | CH4O
product | Quinoxalin-6-yl-acetic acid | 64 mg | N1=CC=NC2=CC(=CC=C12)CC(=O)O | C10H8N2O2
